US07199239B2
Intermediate 71: N-(2,4′-Dimethyl-1,1′-biphenyl-3-yl)butanamide
To a solution of 2,4′-dimethyl-1,1′-biphenyl-3-ylamine (20 g, 0.1015 mol) in anhydrous CH2Cl2 (250 ml) at 0° C. under nitrogen was added triethylamine (28.29 ml, 0.203 mol). Butyrylchloride (11.07 ml, 0.1066 mol) was added dropwise over 0.5 h, the rate of addition ensured temperature of reaction mixture was below 10° C. Reaction mixture was then stirred at room temperature for 2 h under nitrogen, diluted with CH2Cl2 (200 ml), washed with water (400 ml), saturated sodium bicarbonate (400 ml) and saturated sodium chloride (400 ml). The organic solution was dried (Na2SO4) and the solvent removed in vacuo to give a cream solid. To the solid was added cyclohexane (400 ml), the mixture stirred for 2 h and filtered. The solid residues were dissolved in CH2Cl2 and the solvents removed in vacuo to afford the title compound as a cream solid (25 g).

reactant | 2,4′-dimethyl-1,1′-biphenyl-3-ylamine | 0.1015 mol, 20 g | CC1=C(C=CC=C1N)C1=CC=C(C=C1)C | C14H15N
reactant | triethylamine | 0.203 mol, 28.29 ml | C(C)N(CC)CC | C6H15N
reactant | Butyrylchloride | 0.1066 mol, 11.07 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | cyclohexane | 400 ml | C1CCCCC1 | C6H12
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(2,4′-Dimethyl-1,1′-biphenyl-3-yl)butanamide | 25 g | CC1=C(C=CC=C1NC(CCC)=O)C1=CC=C(C=C1)C | C18H21NO
